US08084395B2
In a 5 mL microwave vessel (Biotage) are weighted together 185 mg (0.5 mmole) of 2-(2-Chloro-pyridin-4-yl)-1-(2-fluoro-ethyl)-3-(4-fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridine, 67 mg (0.6 mmoles) of 3-fluorophenyl amine, 2 mg of palladium acetate, 7 mg of biphenylyl dicyclohexylphosphine and 67 mg (0.7 mmole) of sodium t-butoxide in 2.5 mL of toluene. The reaction mixture is then heated at 180° C. for 10 min. under microwave conditions. The reaction mixture is poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. After concentration the solid residue is purified by chromatography on silica gel (ethyl acetate/hexane 1/1) to give 85 mg of {4-[1-(2-Fluoro-ethyl)-3-(4-fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-yl}-(3-fluoro-phenyl)-amine as white solid.

reactant | 2-(2-Chloro-pyridin-4-yl)-1-(2-fluoro-ethyl)-3-(4-fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridine | 0.5 mmole, 185 mg | ClC1=NC=CC(=C1)C1=C(C2=NC=CC=C2N1CCF)C1=CC=C(C=C1)F | C20H14ClF2N3
reactant | 3-fluorophenyl amine | 0.6 mmoles, 67 mg | FC=1C=C(C=CC1)N | C6H6FN
reactant | biphenylyl dicyclohexylphosphine | 7 mg | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | sodium t-butoxide | 0.7 mmole, 67 mg | CC(C)([O-])C.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | {4-[1-(2-Fluoro-ethyl)-3-(4-fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-yl}-(3-fluoro-phenyl)-amine | 85 mg | FCCN1C(=C(C2=NC=CC=C21)C2=CC=C(C=C2)F)C2=CC(=NC=C2)NC2=CC(=CC=C2)F | C26H19F3N4
